US07709528B2
(E/Z) {4-[3-(4-Bromo-phenyl)-3-(3′-trifluoromethyl-biphenyl-4-yl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid
A mixture of {4-[3,3-bis-(4-bromo-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid (described above) (231 mg, 0.421 mmol), 3-(trifluoromethyl)phenylboronic acid (203 mg, 1.07 mmol), KF (81 mg, 1.39 mmol), Pd2(dba)3 (23 mg, 0.025 mmol) and Pd(P(t-Bu)3)2 (26 mg, 0,051 mmol) was evacuated for air and kept under nitrogen. THF (5 ml) was added and the reaction mixture was stirred at 50° C. overnight. A saturated aqueous NH4Cl (5 ml) solution was added, and the mixture was extracted with methylene chloride (2×20 ml). The combined organic phases were dried an evaporated. The isolated products were further purified on HPLC using acetonitril:water (4:6) increasing to pure acetonitril as eluent. The title product was isolated as an E/Z mixture in 95 mg (37%) yield.

reactant | {4-[3,3-bis-(4-bromo-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid | 0.421 mmol, 231 mg | BrC1=CC=C(C=C1)C(=CCSC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)Br | C24H20Br2O3S
reactant | 3-(trifluoromethyl)phenylboronic acid | 1.07 mmol, 203 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | KF | 1.39 mmol, 81 mg | [F-].[K+]
catalyst | Pd2(dba)3 | 0.025 mmol, 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd(P(t-Bu)3)2 | 0,051 mmol, 26 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | {4-[3-(4-Bromo-phenyl)-3-(3′-trifluoromethyl-biphenyl-4-yl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid | BrC1=CC=C(C=C1)C(=CCSC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)C1=CC(=CC=C1)C(F)(F)F | C31H24BrF3O3S
